US04956382
N-Methyl-N-(6-methanesulphonamidobenzofur-2-ylmethyl)-4-methanesulphonamidophenethylamine
Methanesulphonyl chloride (0.21 g, 1.8 mmole) and N-methyl-N-(6-aminobenzofur-2-ylmethyl)-4-aminophenethylamine (see Preparation 2--0.24 g, 0.82 mmole) in pyridine (3 ml) when reacted together under conditions similar to those of Example 2, gave the title compound as an oil, yield 0.18 g.

reactant | Methanesulphonyl chloride | 1.8 mmole, 0.21 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-methyl-N-(6-aminobenzofur-2-ylmethyl)-4-aminophenethylamine | 0.82 mmole, 2--0.24 g | CN(CC=1OC2=C(C1)C=CC(=C2)N)CCC2=CC=C(C=C2)N | C18H21N3O
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | N-Methyl-N-(6-methanesulphonamidobenzofur-2-ylmethyl)-4-methanesulphonamidophenethylamine | CN(CC=1OC2=C(C1)C=CC(=C2)NS(=O)(=O)C)CCC2=CC=C(C=C2)NS(=O)(=O)C | C20H25N3O5S2
